US07696248B2
Step A. 4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoic acid methyl ester
To a solution of 4-(3-methyl-butyryl)-benzoic acid methyl ester (Preparation 4) (440 mg, 2 mmol) in dichloromethane (30 mL) is added 4′-tert-butyl-biphenyl-4-ylamine (Preparation 1) (450 mg, 2 mmol), and triethylamine (606 mg, 6 mmol). Titanium(IV) chloride in dichloromethane (1M, 1 mL) is added dropwise. The reaction is monitored by TLC. Once the starting material is consumed, the reaction is carefully quenched with sodium cyanoborohydride (377 mg, 6 mmol) in MeOH (5 mL) and stirred for 2 h. The reaction is adjusted to pH=13 with 5N NaOH, extracted with EtOAc, dried (Na2SO4), and concentrated under reduced pressure. The resulting residue is purified by silica gel chromatography, eluting with dichloromethane to afford 718 mg of the titled compound. 1H-NMR.

reactant | 4-(3-methyl-butyryl)-benzoic acid methyl ester | 2 mmol, 440 mg | COC(C1=CC=C(C=C1)C(CC(C)C)=O)=O | C13H16O3
reactant | 4′-tert-butyl-biphenyl-4-ylamine | 2 mmol, 450 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)N | C16H19N
reactant | triethylamine | 6 mmol, 606 mg | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 6 mmol, 377 mg | C(#N)[BH3-].[Na+]
reactant | NaOH | 5N | [OH-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1M, 1 mL | ClCCl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Titanium(IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
product | 4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoic acid methyl ester | 718 mg | COC(C1=CC=C(C=C1)C(CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C)=O | C29H35NO2
